US05081131
N-Cyclohexyl-N-((3-pyridinyl)propyl)benz(cd)indol-2-amine
The reaction of 3-(3-pyridinyl)propanamine and cyclohexanone in methanol in the presence of NaBH3CN leads to the preparation of N-cyclohexyl-3-(3-pyridinyl)propanamine. The latter compound, upon reaction with molar equivalents of benz(cd)indol-2-thiol and mercuric acetate in refluxing ethanol under the conditions of Example 55 leads to the title compound.

reactant | 3-(3-pyridinyl)propanamine | N1=CC(=CC=C1)CCCN | C8H12N2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | NaBH3CN | [BH3-]C#N.[Na+]
reactant | N-cyclohexyl-3-(3-pyridinyl)propanamine | C1(CCCCC1)NCCCC=1C=NC=CC1 | C14H22N2
reactant | benz(cd)indol-2-thiol | N1=C(C2=C3C(C=CC=C13)=CC=C2)S | C11H7NS
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | N-Cyclohexyl-N-((3-pyridinyl)propyl)benz(cd)indol-2-amine | C1(CCCCC1)N(C1=NC2=CC=CC=3C2=C1C=CC3)CCCC=3C=NC=CC3 | C25H27N3
